US07910613B2
93: 2-(3,4-Dimethoxy-phenyl)-N-[5-(2-methyl-2H-tetrazol-yl)-4-thiophen-2-yl-thiazol-2-yl]-acetamide
Prepared from 5-(2-methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine and (3,4-dimethoxy-phenyl)-acetyl chloride.

reactant | 5-(2-methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine | CN1N=C(N=N1)C1=C(N=C(S1)N)C=1SC=CC1 | C9H8N6S2
reactant | (3,4-dimethoxy-phenyl)-acetyl chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
product | 2-(3,4-Dimethoxy-phenyl)-N-[5-(2-methyl-2H-tetrazol-yl)-4-thiophen-2-yl-thiazol-2-yl]-acetamide | COC=1C=C(C=CC1OC)CC(=O)NC=1SC(=C(N1)C=1SC=CC1)C=1N=NN(N1)C | C19H18N6O3S2
